US08648089B2
6-(3-(4-methoxyphenyl)-6-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine
DMF (5 mL) was added to a mixture of 6-(3-bromo-6-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine (300 mg, 0.710 mmol), K3PO4 (452 mg, 2.13 mmol) and 4-methoxyphenylboronic acid (215 mg, 1.41 mmol) and then the dissolved gas was removed. After adding Pd(PPh3)4 (123 mg, 0.11 mmol), the mixture was stirred at 120° C. for 2 hours. After adding ethyl acetate and water and then filtering using a diatomite pad, the organic layer was separated and the aqueous layer was extracted with ethyl acetate. The collected organic layer was washed with brine and concentrated under reduced pressure by drying with anhydrous magnesium sulfate. The residue was purified by chromatography (silica gel, EA:Hx=1:4→1:1). The target compound was obtained as white solid.

reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | 6-(3-bromo-6-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | 0.710 mmol, 300 mg | BrC1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC(=NC=N1)NC | C19H14BrN5O2
reactant | K3PO4 | 2.13 mmol, 452 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 1.41 mmol, 215 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
catalyst | Pd(PPh3)4 | 0.11 mmol, 123 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(3-(4-methoxyphenyl)-6-(3-nitrophenyl)-1H-indol-1-yl)-N-methylpyrimidin-4-amine | COC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC(=NC=N1)NC | C26H21N5O3
